US06348460B1
Production of 2-(4-methyl-1,2,3-thiadiazol-5-yl-carbonylamino)benzoic acid
In 50 ml of water were dissolved 1.2 g (31 mmol) of sodium hydroxide and 4.2 g (31 mmol) of anthranilic acid. While cooling the solution with ice, 5 g (31 mmol) of 4-methyl-1,2,3-thiadiazole-5-carboxylic acid chloride was dropwise added thereto over a period of 30 minutes. After the dropping, the resulting mixture was reacted with stirring at room temperature for 30 minutes. After the reaction was completed, the crystalline product deposited from the reaction mixture was collected by filtration and washed with methanol and ethyl acetate. Thus, 7.1 g of the objective compound was obtained.

reactant | sodium hydroxide | 31 mmol, 1.2 g | [OH-].[Na+]
reactant | anthranilic acid | 31 mmol, 4.2 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 4-methyl-1,2,3-thiadiazole-5-carboxylic acid chloride | 31 mmol, 5 g | CC=1N=NSC1C(=O)Cl | C4H3ClN2OS
solvent | water | 50 ml | O | H2O
product | 2-(4-methyl-1,2,3-thiadiazol-5-yl-carbonylamino)benzoic acid | 7.1 g, Yield: 87% | CC=1N=NSC1C(=O)NC1=C(C(=O)O)C=CC=C1 | C11H9N3O3S
